US09447114B2
To a mixture of 6-bromo-1-methyl-2,4-dioxo-3-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidine-5-carbaldehyde (100 mg, 0.23 mmol), K2CO3 (159 mg, 1.15 mmol) in DMF (3 mL) was added 3-chlorophenol (90 mg, 0.70 mmol). The reaction was heated at 65° C. for 1 h, cooled to RT then diluted with EA (30 mL) and water (30 mL). The organic layer was dried over Na2SO4 and concentrated to a residue which was purified by chromatography and eluted with PE/EA (5:1) to give 6-(3-chlorophenoxy)-1-methyl-2,4-dioxo-3-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidine-5-carbaldehyde (65 mg, 58.6% yield) as a yellow oil. LCMS: MH+ 479 and TR=1.836 min.

reactant | 6-bromo-1-methyl-2,4-dioxo-3-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidine-5-carbaldehyde | 0.23 mmol, 100 mg | BrC1=C(C2=C(N(C(N(C2=O)CCCOC2OCCCC2)=O)C)S1)C=O | C16H19BrN2O5S
reactant | K2CO3 | 1.15 mmol, 159 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chlorophenol | 0.70 mmol, 90 mg | ClC=1C=C(C=CC1)O | C6H5ClO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EA | 30 mL | CC(OCC)=O | C4H8O2
solvent | water | 30 mL | O | H2O
product | 6-(3-chlorophenoxy)-1-methyl-2,4-dioxo-3-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidine-5-carbaldehyde | 65 mg, 58.6% yield | ClC=1C=C(OC2=C(C3=C(N(C(N(C3=O)CCCOC3OCCCC3)=O)C)S2)C=O)C=CC1 | C22H23ClN2O6S
